* BFS17A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : June 1995
*
* PACKAGE : SOT23 DIE MODEL : BFW92A
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFS17A 1 2 3
Q1 6 5 7 7 BFW92A
* SOT23 parasitic model
             Lb  4 5 .4n
             Le  7 8 .83n
             L1  2 4 .35n
             L2  1 6 .17n
             L3  3 8 .35n
             Ccb 4 6 71f
             Cbe 4 8 2f
             Cce 6 8 71f
*
* PHILIPS SEMICONDUCTORS                   Version:    1.0
* Filename:   BFW92A.prm                   Date: June 1995
*
.MODEL  BFW92A   NPN
+(
+            IS   = 2.429E-16
+            BF   = 93.26
+            NF   = 0.9912
+            VAF  = 39.71
+            IKF  = 0.2681
+            ISE  = 2.408E-15
+            NE   = 1.463
+            BR   = 4.816
+            NR   = 0.988
+            VAR  = 7.422
+            IKR  = 10
+            ISC  = 4.039E-15
+            NC   = 1.376
+            RB   = 20.94
+            IRB  = 0
+            RBM  = 12.27
+            RE   = 0.3698
+            RC   = 1.105
+            CJE  = 1.302E-12
+            VJE  = 0.6
+            MJE  = 0.2995
+            CJC  = 8.263E-13
+            VJC  = 0.5035
+            MJC  = 0.2814
+            CJS  = 1.5E-13
+            VJS  = 0.75
+            MJS  = 0
+            XCJC = 0.0983
+            TR   = 1E-09
+            TF   = 3.117E-11
+            XTF  = 296.7
+            VTF  = 6
+            ITF  = 0.8048
+            PTF  = 0
+            FC   = 0.8067
+)
.ENDS